US04695131
A few ml of a solution of 4-bromo-2-fluorobiphenyl (50 gram) in diethyl ether (150 ml) was added to magnesium turnings (5.3 gram) and diethyl ether (25 ml) under nitrogen. A crystal of iodine was added and reaction was initiated by warming. The remainder of the solution of 4-bromo-3-fluorobiphenyl was then added at a rate fast enough to sustain vigorous refluxing. After boiling for 1 hour, the solution of the Grignard reagent was cooled to 20° C. and then a solution of 4-n-propylcyclohexanone (27.9 gram) in diethyl ether (75 ml) was added over 30 minutes. After stirring for 1 hour, the mixture was poured onto 15% hydrochloric acid (2 liter) and the product extracted with ether (2×300 ml). The combined extracts were washed with water, dried and evaporated. The residue was crystallised from petroleum ether (b.p. 60°-80°, 120 ml) to give 1-(2-fluoro-4-biphenylyl)-4-propyl cyclohexane-1-ol as pale yellow crystals, m.p. 45°-72° (37.2 gram: 61.2% theory) (isomer ratio by glc 60.6: 39.4).

reactant | 4-bromo-2-fluorobiphenyl | 50 gram | BrC1=CC(=C(C=C1)C1=CC=CC=C1)F | C12H8BrF
reactant | magnesium | 5.3 gram | [Mg] | Mg
reactant | iodine | II | I2
reactant | 4-bromo-3-fluorobiphenyl | BrC1=C(C=C(C=C1)C1=CC=CC=C1)F | C12H8BrF
reactant | 4-n-propylcyclohexanone | 27.9 gram | C(CC)C1CCC(CC1)=O | C9H16O
reactant | hydrochloric acid | 2 liter | Cl | ClH
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 75 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | 1-(2-fluoro-4-biphenylyl)-4-propyl cyclohexane-1-ol | FC1=C(C=CC(=C1)C1(CCC(CC1)CCC)O)C1=CC=CC=C1 | C21H25FO
